US04788206
As before in Example 134, a solution of (E)-5,5-bis(4-methylphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (2.5 g) and 3-pyridinebutanamine (1.08 g) in tetrahydrofuran (25 mL) was stirred overnight at room temperature and then worked up in the usual way. The amide was purified by HPLC (ethyl acetate) and then was crystallized two times from ether to give 1.85 g of (E)-5,5-bis(4-methylphenyl)-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide, mp 144.5°-145.5° C.

reactant | (E)-5,5-bis(4-methylphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 2.5 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)=O | C25H21NO4
reactant | 3-pyridinebutanamine | 1.08 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (E)-5,5-bis(4-methylphenyl)-N-[4-(3-pyridinyl)butyl]-2,4-pentadienamide | 1.85 g | CC1=CC=C(C=C1)C(=C/C=C/C(=O)NCCCCC=1C=NC=CC1)C1=CC=C(C=C1)C | C28H30N2O
